US04744812
34.8 parts by weight of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzyl alcohol were suspended in 200 parts by volume of absolute toluene, 8 parts by weight of pyridine were added, and 13.1 parts by weight of thionyl chloride were added dropwise at 0° C. Thereafter the reaction mixture was stirred for a further 2 hours at 110° C., was cooled, and was extracted with 75 parts by volume of 3N hydrochloric acid and with five times 250 parts by volume of water. The organic phase was separated off, dried with magnesium sulfate and concentrated under reduced pressure. 32 parts by weight (88% of theory) of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzyl chloride were obtained in the form of an initially oily residue which crystallized when triturated with pentane, to give crystals of melting point 55°-60° C.

reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzyl alcohol | ClC1=C(OC=2C=C(CO)C(=CC2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H9ClF3NO4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzyl chloride | 88% | ClC1=C(OC=2C=C(CCl)C(=CC2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H8Cl2F3NO3
